US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-trifluoromethyl-pyrimidine hydrochloride
1 g of 4-methyl-4H-[1,2,4]triazole-3-thiol (8.7 mmol) were reacted with 3.2 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-trifluoromethyl-pyrimidine (8.7 mmol to yield 2.1 g of the title compound as a solid.

reactant | 4-methyl-4H-[1,2,4]triazole-3-thiol | 8.7 mmol, 1 g | CN1C(=NN=C1)S | C3H5N3S
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-trifluoromethyl-pyrimidine | 3.2 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(F)(F)F | C16H24ClF3N4
product | 2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-trifluoromethyl-pyrimidine hydrochloride | 2.1 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=CN1C)C(F)(F)F | InChI=1S/C19H28F3N7S.ClH/c1-18(2,3)16-24-14(19(20,21)22)12-15(25-16)29-9-7-28(8-10-29)6-5-11-30-17-26-23-13-27(17)4;/h12-13H,5-11H2,1-4H3;1H
